US06716851B2
4-(3-Methoxy-phenoxy)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (50 mg, 0.243 mmol) and 3-methoxyphenol (27 μl, 0.243 mmol) similar to Example 13 and isolated as a white oil (24 mg, 34%). 1H NMR (CDCl3): 8.79-8.76 (m, 1H), 8.26-8.23 (m, 1H), 7.75-7.69 (m, 1H), 7.33-7.28 (m, 2H), 6.82-6.72 (m, 3H), 6.58 (s, 1H), 3.77 (s, 3H), 2.58 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.243 mmol, 50 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3-methoxyphenol | 0.243 mmol, 27 μl | COC=1C=C(C=CC1)O | C7H8O2
product | 4-(3-Methoxy-phenoxy)-6-methyl-2-(2-pyridinyl)pyrimidine | COC=1C=C(OC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1 | C17H15N3O2
